Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
hydromorphone
 
Attending: ___.
 
Chief Complaint:
Sepsis
 
Major Surgical or Invasive Procedure:
___: Surgical debridment of RUQ
 
History of Present Illness:
___ PMH unresectable pancreatic adeno s/p PTDB drain p/w 3
days worsening pain by drain site. She reports no other 
symptoms,
and her ROS is negative for fevers chills, night sweats,chest
pain, shortness of breath. Pt initially presented to an OSH 
where
there was concern for necrotizing fasciitis and she was
transferred to ___.

 
Past Medical History:
HTN, HLD, DM2, aortic stenosis (EF 55%, ___ 1.1 cm2), hx DVT/PE
on coagulation w/ warfarin  

Past Surgical History:
Gastric Bypass surgery
bilateral TKA
Plantar exostectomy, ulcer excision ___
B/L Charcot reconstruction ___
R foot debridement ___:
Debridement/Excision of ulcer, bone biopsy cuboid and 
intermediate cuneiform ___: 

 
Social History:
___
Family History:
Father died of MI at ___. Mother lived to ___. 
 
Brief Hospital Course:
The patient presented to the Emergency Department on ___ . 
Pt was evaluated upon arrival to ED and found to be septic.  
Given findings, the patient was taken to the operating room for 
R abdominal wound incision and drainage on ___. There were 
no adverse events in the operating room; please see the 
operative note for details.  Pt was kept intubated, taken to the 
TSICU for further monitoring. The patient's hospitalization can 
be summarized below

Neuro: The patient remained intubated until ___. On ___ 
she was noted to be less interactive and due to her history of 
Afib, a CT Head was obtained that demonstrated no acute 
intracranial abnormalities. The patient was given adequate 
sedation and pain control, and upon extubation her pain  was 
managed with a Tylenol and intermittent narcotic medications. 

CV: Post-op the patient remained hypotensive, with the most 
likely reason due to sepsis and poor cardiac function. An echo 
completed ___ demonstrated an EF of ___ and severe AS 
(0.7cm2).  She was weaned of pressors gradually and started on 
midodrine for blood pressure support. Upon discharge she was off 
of pressors with SBPs in the ___.

Pulmonary: The patient remained intubated post-op as she was 
being actively fluid resuscitated and there was concern for 
flash pulmonary edema due to her cardiac function. After 
appropriate resuscitation and management of her sepsis, she was 
weaned off mechanical ventilation and extubated on ___. Her 
vital signs were routinely monitored. Good pulmonary toilet and 
incentive spirometry were encouraged throughout hospitalization.

GI/GU/FEN: The patient presented to the ED with sepsis secondary 
to a clogged PTDB drain causing a R abdominal would bile 
abscess- the PTDB was placed due to her history of unresectable 
pancreatic cancer.  After her R abd wound I+D, she her PTDB 
drain was replaced in Interventional Radiology. A Dobhoff was 
placed by ___ and advanced post-pyloric to assist with enteric 
TFs due to her history of a RNYGB. On ___ her PTDB was once 
again replaced as it was noted her Tbili and lactate were rising 
due to the drain being clogged once again.  She was kept NPO 
until ___- the patient had repeatedly failed speech and 
swallow due to high risk of aspiration. The patient had multiple 
family meetings throughout her hospitalization where her ongoing 
recovery and long term prognosis due to her pancreatic cancer 
were discussed.  It was ultimately decided that due to nature of 
her pancreatic cancer, long term prognosis, and quality of life 
goals, she should be taken to hospice care.  As such, it was 
determined her diet should be advance to regular, despite 
aspiration risks, for comfort.  

ID: The patient's presented in sepsis. Multiple cultures were 
sent and and she was treated with Ceftriaxone and Linezolid 
based on her culture data for her wound abscess, and the course 
of those antibiotics completed ___.  Her hospitalization was 
complicated by C.diff and she was started on a course of 
metronidazole.  Upon discharge, her symptoms of C.diff were 
resolving, she was afebrile, and her WBC was 6.3 with no signs 
of systemic infection. 

HEME: The patient's blood counts were closely watched for signs 
of bleeding- during her hospitalization she received 2U PRBC for 
low Hct. There were no overt signs of bleeding, and the likely 
reason for her low Hct was due to multiple lab draws needed to 
monitor her care.  

Prophylaxis: The patient received a heparin gtt and ___ dyne 
boots for anticoagulaton (for Afib) and prophylaxis. She will 
not be discharged home on coumadin, based on her goals of care 
and discharge to hospice. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a 
limited diet, and pain was well controlled.  She is being 
discharged to hospice care based on her goals of care 
 
Medications on Admission:
1.  Lactobacillus acidophilus 1 unit oral DAILY  
2.  Vitamin D 800 UNIT PO DAILY  
3.  Warfarin 2 mg PO DAILY16 
hold dose ___, check INR ___ and consider restarting lower 
dose  
4.  Ascorbic Acid ___ mg PO DAILY  
5.  Calcium Carbonate 1250 mg PO DAILY  
6.  Cyanocobalamin 500 mcg PO DAILY  
7.  Famotidine 20 mg PO BID  
8.  Ferrous Sulfate 325 mg PO DAILY  
9.  Furosemide 40 mg PO DAILY 
may need to be stopped depending on PO intake. Not given during 
admission  
10.  MetFORMIN (Glucophage) 1000 mg PO BID  
11.  Multivitamins 1 TAB PO DAILY  
12.  Potassium Chloride 20 mEq PO DAILY  
13.  Senna 17.2 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Pancreatic Adenocarcinoma
Deep Vein Thrombosis

 
Discharge Condition:
Stable, on comfort measures
 
Discharge Instructions:
Regular diet with Dysphagia precautions.  
Biliary drain to closed bag drainage, empty daily, flush with NS 
10 cc's daily.
PO Flagyl for 1 week for C. difficile colitis.
Midodrine 15 mg PO t.i.d for orthostatic hypotension.
 
Followup Instructions:
___